US06548495B2
{5-Morpholin-4-yl-2-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J1) (434 mg, 1.2 mmol) and 3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic acid ethyl ester [CAS-No. 335255-97-5] (259 mg, 1.0 mmol) according to the general procedure M. Obtained as an off-white solid (372 mg).

reactant | (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.2 mmol, 434 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)N)=O | C16H22F3N3O3
reactant | 3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionic acid ethyl ester | 1.0 mmol, 259 mg | C(C)OC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O | C13H13N3O3
product | {5-Morpholin-4-yl-2-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O)=O | C27H29F3N6O5
